US07465815B2
3-Bromo-2,4,5-trimethylphenol
To a solution of 3-bromo-2,4,5-trimethylbenzaldehyde obtained in Reference Example 67 (32.0 g, 141 mmol) in THF (100 mL) was added methanol (200 mL) with ice-cooling, followed by addition of p-toluenesulfonic acid monohydrate (5.40 g, 28.4 mmol) with ice-cooling. Hydrogen peroxide (30%, 24.0 g, 212 mmol) was added dropwise to the reaction solution at 10° C. or lower, and the mixture was warmed to room temperature and stirred for 12 hours. Then the reaction solution was stirred at 50° C. for 36 hours, followed by addition of an aqueous sodium sulfite solution, and methanol and THF were distilled off under reduced pressure. The residue was extracted with ethyl acetate, the organic layer was washed with water and a saturated brine, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a residue, which was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 9.1 g (yield 30%) of the title compound. Melting point: 86-88° C.

reactant | 3-bromo-2,4,5-trimethylbenzaldehyde | BrC=1C(=C(C=O)C=C(C1C)C)C | C10H11BrO
reactant | p-toluenesulfonic acid monohydrate | 28.4 mmol, 5.40 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Hydrogen peroxide | 212 mmol, 24.0 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 3-Bromo-2,4,5-trimethylphenol | 9.1 g, yield 30% | BrC=1C(=C(C=C(C1C)C)O)C | C9H11BrO
